US04457932
B. 9-n-Butyl-3-(1H-tetrazol-5-yl)-4H-pyrido[1,2-a]pyrimidin-4-one
The title compound (m.p. 255.5°-257.5° with decomposition, 30% yield) was prepared from ethyl 2-cyano-3-(3-n-butyl-2-pyridylamino)acrylate in a manner similar to that described for the preparation of 3-(1H-tetrazol-5-yl)-4H-pyrido[1,2-a]pyrimidin-4-one in Example 2 of U.S. Pat. No. 4,122,274.

reactant | ethyl 2-cyano-3-(3-n-butyl-2-pyridylamino)acrylate | C(#N)C(C(=O)OCC)=CNC1=NC=CC=C1CCCC | C15H19N3O2
reactant | 3-(1H-tetrazol-5-yl)-4H-pyrido[1,2-a]pyrimidin-4-one | N1N=NN=C1C1=CN=C2N(C1=O)C=CC=C2 | C9H6N6O
product | 9-n-Butyl-3-(1H-tetrazol-5-yl)-4H-pyrido[1,2-a]pyrimidin-4-one | 30% yield | C(CCC)C1=CC=CN2C1=NC=C(C2=O)C2=NN=NN2 | C13H14N6O
